US06121308
b. 2-[(4-cyanophenyl)methylthio]-6-amino-benzothiazole
A suspension of 1.0 g (3.05 mmol) of 2-[(4-cyanophenyl)methylthio]-6-nitro-benzothiazole is heated to boiling in 60 ml glacial acetic acid until a clear solution is formed. Then 2.0 g (36 mmol) of iron powder is added in two batches and the resulting mixture is refluxed for 5 minutes. It is filtered, and the filtrate is concentrated in vacuo. The crude product is made alkaline by the addition of conc. ammonia and purified by flash chromatography (silica gel, ethyl acetate/petroleum ether=20:80 to 35:65).

reactant | 2-[(4-cyanophenyl)methylthio]-6-nitro-benzothiazole | 3.05 mmol, 1.0 g | C(#N)C1=CC=C(C=C1)CSC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C15H9N3O2S2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 36 mmol, 2.0 g | [Fe] | Fe
product | 2-[(4-cyanophenyl)methylthio]-6-amino-benzothiazole | C(#N)C1=CC=C(C=C1)CSC=1SC2=C(N1)C=CC(=C2)N | C15H11N3S2
